US08304036B2
6.0 g (16.0 mmol) of ethyltriphenylphosphonium bromide are initially introduced together with 5.2 g (14.3 mmol) of 5-(4-ethoxy-2,3-difluorophenyl)-tellurophene-2-carbaldehyde in 150 ml of THF at 0° C., and 0.89 g (7.9 mmol) of potassium tert-butoxide dissolved in 7 ml of THF is added. After 2 h at room temperature, the mixture is diluted with MTBE, and water and 2 N hydrochloric acid are added. The organic phase is separated off, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, n-heptane:toluene=3:2). Further purification is carried out by recrystallisation from ethanol; 2-(4-ethoxy-2,3-difluorophenyl)-5-propenyltellurophene is obtained as a yellowish solid.

reactant | 5-(4-ethoxy-2,3-difluorophenyl)-tellurophene-2-carbaldehyde | 14.3 mmol, 5.2 g | C(C)OC1=C(C(=C(C=C1)C1=CC=C([Te]1)C=O)F)F | C13H10F2O2Te
reactant | potassium tert-butoxide | 7.9 mmol, 0.89 g | CC(C)([O-])C.[K+]
catalyst | ethyltriphenylphosphonium bromide | 16.0 mmol, 6.0 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
solvent | water | O | H2O
solvent | hydrochloric acid | 2 N | Cl | ClH
product | 2-(4-ethoxy-2,3-difluorophenyl)-5-propenyltellurophene | C(C)OC1=C(C(=C(C=C1)C=1[Te]C(=CC1)C=CC)F)F | C15H14F2OTe
